US09126945B2
Ethyl 4-chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate
500 mg (2.19 mmol) of ethyl 3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate are dissolved in 10 ml of N,N-dimethylformamide p.a., and 438 mg (3.28 mmol)) of N-chlorosuccinimide are added. The reaction mixture is heated at 80° C. for 15. The cooled reaction solution is diluted with water and extracted twice with ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution, dried over sodium sulphate and filtered. The solvent is removed under reduced pressure on a rotary evaporator. The crude product is filtered through silica gel and eluted with ethyl acetate. This gives 517 mg (80%) of ethyl 4-chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate in a purity of 89%.

reactant | ethyl 3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate | 2.19 mmol, 500 mg | ClC1(CC1)C1=NN(C(=C1)C(=O)OCC)C | C10H13ClN2O2
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl 4-chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate | ClC=1C(=NN(C1C(=O)OCC)C)C1(CC1)Cl | C10H12Cl2N2O2
